US07642264B2
N,N-Bis-(2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-ethyl)-3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.258 g, 0.528 mmol) by treatment with bis-[2-[2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy]-ethyl]-amine [CAS-no. 123852-08-4] (0.210 g, 0.528 mmol) and Et3N (0.221 mL, 1.58 mmol) in THF (5 mL) at 23° C. for 1 h. Diluted with EtOAc, washed with 5% citric acid, sat. NaHCO3-sol.+2 M Na2CO3-sol. and brine, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with EtOAc/EtOH gave the title compound (0.158 g, 63%) as a yellow oil. MS (ISP) 850.5 [(M+H)+].

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.528 mmol, 0.258 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | bis-[2-[2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy]-ethyl]-amine | 0.528 mmol, 0.210 g | COCCOCCOCCOCCNCCOCCOCCOCCOC | C18H39NO8
reactant | Et3N | 1.58 mmol, 0.221 mL | CCN(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N,N-Bis-(2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-ethyl)-3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide | 0.158 g, 63% | COCCOCCOCCOCCN(S(=O)(=O)C1=CC(=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)CCOCCOCCOCCOC | C42H54F3N3O10S
